US07875645B2
To a solution of 0.8 g (3.1 mmol) (E)-[1-(2-ethyl-6-methoxy-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine (Example 3 a)) in 3 ml dry THF cooled to −20° C. were added 9.62 ml of a 0.7M solution of isopropyl lithium in pentane drop-wise to keep temperature below 0° C. Then the mixture was stirred at −20° C. for further 30 min and the reaction quenched by addition of water. The aqueous phase was extracted with ethyl acetate, the combined extracts washed with brine, dried over Na2SO4, filtered and evaporated. Purification of the crude product by flash chromatography on silica gel with heptane as eluent provided 0.220 g (E)-[1-(2-ethyl-6-isopropyl-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine as colourless liquid: MS (ISP): 274.1 (M+H+.).

reactant | (E)-[1-(2-ethyl-6-methoxy-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine | 3.1 mmol, 0.8 g | C(C)C1=C(C(=CC=C1)OC)\C=N\C(C(C)C)C(C)C | C17H27NO
reactant | isopropyl lithium | C(C)(C)[Li]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | (E)-[1-(2-ethyl-6-isopropyl-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine | 0.220 g | C(C)C1=C(C(=CC=C1)C(C)C)\C=N\C(C(C)C)C(C)C | C19H31N
